US08030334B2
A flask is charged with 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethanesulfonic acid [5-(6-chloro-3-cyano-1-methyl-1H-indol-2-yl)-pyridin-3-ylmethyl]-amide (0.065 g, 0.109 mmol) and MeOH (4 mL). Hydrazine (0.069 mL, 2.183 mmol) is added and the reaction is stirred at room temperature overnight. 2M aqueous HCl is added, followed by concentration in vacuo. Dichloromethane is added and the mixture is filtered through celite. The organic layer is washed with water once and the aqueous layer is basified to using 4M aqueous NaOH and extracted with dichloromethane thrice. The combined dichloromethane fraction is dried over sodium sulfate and concentrated in vacuo to afford a residue which is purified by reverse-phase HPLC to afford 2-amino-ethanesulfonic acid [5-(6-chloro-3-cyano-1-methyl-1H-indol-2-yl)-pyridin-3-ylmethyl]-amide as a solid. 1H NMR (400 MHz, MeOD) δ ppm 3.12 (t, J=6.6 Hz, 2H), 3.29 (t, J=6.6 Hz, 2H), 3.84 (s, 3H), 4.49 (s, 2H), 7.38 (dd, J=8.6, 1.8 Hz, 1H), 7.73 (d, J=8.6 Hz, 1H), 7.78 (d, J=1.5 Hz, 1H), 8.19 (t, J=2.1 Hz, 1H), 8.81 (d, J=2.3 Hz, 1H), 8.82 (d, J=2.3 Hz, 1H). HRMS (ESI) m/z 404.0944 [(M+H)+ Calcd for C18H19ClN5O2S: 404.0948].

reactant | 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethanesulfonic acid [5-(6-chloro-3-cyano-1-methyl-1H-indol-2-yl)-pyridin-3-ylmethyl]-amide | 0.109 mmol, 0.065 g | ClC1=CC=C2C(=C(N(C2=C1)C)C=1C=C(C=NC1)CNS(=O)(=O)CCN1C(C2=CC=CC=C2C1=O)=O)C#N | C26H20ClN5O4S
reactant | Hydrazine | 2.183 mmol, 0.069 mL | NN | H4N2
reactant | HCl | 2M | Cl | ClH
solvent | MeOH | 4 mL | CO | CH4O
product | 2-amino-ethanesulfonic acid [5-(6-chloro-3-cyano-1-methyl-1H-indol-2-yl)-pyridin-3-ylmethyl]-amide | ClC1=CC=C2C(=C(N(C2=C1)C)C=1C=C(C=NC1)CNS(=O)(=O)CCN)C#N | C18H18ClN5O2S
